US05134238
(S)-N-methyl-1-phenyl-2-(1-piperidinyl)ethanamine (348.4 mg, 1.60 mmol) was dissolved in ether (12 mL) and n-butyl lithium (2.5M in hexanes, 0.61 mL, 1.53 mmol) was added to the solution at -65° C. The solution was stirred for 5 min at -65° C., gradually (for 20 min) warmed to 0° C. and stirred for 10 min at 0° C. To a second flask was added CuI (254 mg, 1.33 mmol) and 10 mL of diethyl ether. This solution was cooled to -40° C. and treated with n-butyl lithium (0.51 mL, 1.28 mmol). The solution in the first flask was cooled to -35° C. and added via canula to the solution of n-BuCu in the second flask. The resulting solution was stirred for 15 min at -35° C., for 10 min at -30° C., and cooled to -78° C. After 30 min, 2-cycloheptenone (141 mg, 1.28 mmol) was added slowly at -78° C. The reaction mixture was quenched after 1 hr by adding 4N NH4Cl (15 mL) at -78° C. and extracted with ether (20 mL). The extract was washed with 1N HCl (15 mL), dried (Na2SO4) and concentrated. The oily residue was purified by column chromatography on silica gel (10:1=hexanes/ethyl acetate) to afford (S)-3-n-butylcycloheptanone (136 mg, 63% chemical yield, 96% ee, [α]D =-33.0 (c= 3.2, chloroform)).

reactant | (S)-N-methyl-1-phenyl-2-(1-piperidinyl)ethanamine | 1.60 mmol, 348.4 mg | CN[C@H](CN1CCCCC1)C1=CC=CC=C1 | C14H22N2
reactant | n-butyl lithium | 1.53 mmol, 2.5M, 0.61 mL | C(CCC)[Li]
reactant | n-butyl lithium | 1.28 mmol, 0.51 mL | C(CCC)[Li]
reactant | 2-cycloheptenone | 1.28 mmol, 141 mg | C1(C=CCCCC1)=O | C7H10O
solvent | ether | 12 mL | CCOCC | C4H10O
catalyst | CuI | 1.33 mmol, 254 mg | [Cu]I
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (S)-3-n-butylcycloheptanone | 136 mg, 63% | C(CCC)[C@@H]1CC(CCCC1)=O | C11H20O
